US06703509B2
15.3 g of methyl 5-(4-fluorophenyl)nicotinate (obtainable by Suzuki coupling of methyl 5-bromopyridine-3-carboxylate with 4-fluorobenzeneboronic acid analogously to Example 1 or 2) are saponified by conventional methods to give 5-(4-fluorophenyl)nicotinic acid.

reactant | methyl 5-(4-fluorophenyl)nicotinate | 15.3 g | FC1=CC=C(C=C1)C=1C=NC=C(C(=O)OC)C1 | C13H10FNO2
reactant | methyl 5-bromopyridine-3-carboxylate | BrC=1C=C(C=NC1)C(=O)OC | C7H6BrNO2
reactant | 4-fluorobenzeneboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
product | 5-(4-fluorophenyl)nicotinic acid | FC1=CC=C(C=C1)C=1C=NC=C(C(=O)O)C1 | C12H8FNO2
